* sg13g2-pll :: sim/sg13g2-lock-detector-window (issue #82, Part of #16 via #78)
* Frozen snapshot of design/netlist/lock_detector.spice at the INTERMEDIATE
* state of this issue's two-stage re-derivation, taken on this issue's own
* branch with parent commit 6c4351b30b58b5de8a25430936317dc440908930.  Independent of whatever
* design/netlist/lock_detector.spice says by the time this record is read
* later -- see sim/README.md's own "Netlist provenance" convention.
*
* STAGE 1 OF 2 -- XRPU / XCW / XDW.XC1 resized per ../corners/rc_sizing.csv +
* ../corners/rc_pairing.csv + ../corners/window_sizing.csv
* (./testbench/run_rc_sizing.sh); XMPD still AS DRAWN (w=2u l=0.5u).
*
*   XRPU      rhigh     w=0.5u l=500u m=1   (was l=6u)
*   XCW       cap_cmim  w=45u l=45u m=1     (was w=6u  l=6u  m=1)
*   XDW.XC1   cap_cmim  w=45u l=45u m=1     (was w=4u  l=4u  m=1)
*   XMPD      sg13_hv_nmos w=2u l=0.5u      (unchanged at this stage)
*
* This file exists so ./testbench/run_xmpd_sizing.sh -- stage 2, which
* SUBSTITUTES XMPD for every candidate geometry including the as-drawn
* baseline -- has a frozen, citable input whose XRPU/XCW/XDW.XC1 are exactly
* the landed ones.  The block ../records/RECORD-001 draws its pass/fail
* verdicts against is ./lock_detector_resized.spice, which additionally
* carries the XMPD geometry that sweep selected.
*
* xschem XSCHEM V3.4.7; do not edit by hand.
** sch_path: design/lock_detector.sch
.subckt lock_detector UP DN LOCK VDD VSS
*.ipin UP
*.ipin DN
*.opin LOCK
*.iopin VDD
*.iopin VSS
XXOR UP DN ERR VDD VSS xor2_hv
XDW ERR ERRD VDD VSS delaywin_hv
XNW ERR ERRD nwide VDD VSS nand2_hv
XIW nwide WIDE VDD VSS inv_hv
XRPU VDD VWIN sub! rhigh w=0.5u l=500u m=1 b=0
XMPD VWIN WIDE VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XCW VWIN VSS cap_cmim w=45u l=45u m=1
XSCH VWIN LOCK VDD VSS schmitt_hv
.ends

* expanding   symbol:  xor2_hv.sym # of pins=5
** sym_path: design/xor2_hv.sym
** sch_path: design/xor2_hv.sch
.subckt xor2_hv A B Y VDD VSS
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin VSS
XN1 A B n1 VDD VSS nand2_hv
XN2 A n1 n2 VDD VSS nand2_hv
XN3 B n1 n3 VDD VSS nand2_hv
XN4 n2 n3 Y VDD VSS nand2_hv
.ends


* expanding   symbol:  delaywin_hv.sym # of pins=4
** sym_path: design/delaywin_hv.sym
** sch_path: design/delaywin_hv.sch
.subckt delaywin_hv IN OUT VDD VSS
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin VSS
XI1 IN d1 VDD VSS inv_hv
XI2 d1 d2 VDD VSS inv_hv
XI3 d2 d3 VDD VSS inv_hv
XI4 d3 OUT VDD VSS inv_hv
XC1 OUT VSS cap_cmim w=45u l=45u m=1
.ends


* expanding   symbol:  nand2_hv.sym # of pins=5
** sym_path: design/nand2_hv.sym
** sch_path: design/nand2_hv.sch
.subckt nand2_hv A1 A2 Y VDD VSS
*.opin Y
*.ipin A1
*.ipin A2
*.iopin VDD
*.iopin VSS
XMP1 Y A1 VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMP2 Y A2 VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMN1 Y A1 mid1 VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
XMN2 mid1 A2 VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  inv_hv.sym # of pins=4
** sym_path: design/inv_hv.sym
** sch_path: design/inv_hv.sch
.subckt inv_hv A Y VDD VSS
*.ipin A
*.opin Y
*.iopin VDD
*.iopin VSS
XMP Y A VDD VDD sg13_hv_pmos w=5u l=0.5u ng=1 m=1
XMN Y A VSS VSS sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  schmitt_hv.sym # of pins=4
** sym_path: design/schmitt_hv.sym
** sch_path: design/schmitt_hv.sch
.subckt schmitt_hv IN OUT VDD VSS
*.ipin IN
*.opin OUT
*.iopin VDD
*.iopin VSS
XMP1 np IN VDD VDD sg13_hv_pmos w=5u l=2u ng=1 m=1
XMP2 OUT IN np VDD sg13_hv_pmos w=5u l=2u ng=1 m=1
XMP3 VSS OUT np VDD sg13_hv_pmos w=5u l=2u ng=1 m=1
XMN1 OUT IN nn VSS sg13_hv_nmos w=2u l=2u ng=1 m=1
XMN2 nn IN VSS VSS sg13_hv_nmos w=2u l=2u ng=1 m=1
XMN3 VDD OUT nn VSS sg13_hv_nmos w=2u l=2u ng=1 m=1
.ends

